US06313312B1
N-(3-{3-[2-(5-Chloro-3-thienyl)ethyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide
To a solution of N-(3-{3-[2-(5-chloro-3-thienyl)acetyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide (Preparation 121, 45 mg, 0.11 mmol) in anhydrous tetrahydrofuran (1 ml) under a nitrogen atmosphere at 0° C. was added dropwise lithium aluminium hydride (1.0M solution in tetrahydrofuran, 0.22 ml, 0.22 mmol) and the mixture was stirred at room temperature for 3 h. The rapidly stirred reaction mixture was treated sequentially with water (0.22 ml), sodium hydrogen carbonate (200 mg) and ethyl acetate (10 ml). After 30 min the reaction mixture was filtered and concentrated in vacuo to afford a pale yellow oil. This was purified by preparative HPLC (condition 8) to give a very pale yellow oil which was partitioned between dichloromethane (10 ml) and aqueous potassium carbonate solution (4% w:v, 5 ml). The layers were separated and the organic layer was washed with water (3 ml), dried (Na2SO4), filtered and concentrated in vacuo to afford the title compound as a colourless oil (14 mg, 33%).

reactant | N-(3-{3-[2-(5-chloro-3-thienyl)acetyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide | 0.11 mmol, 45 mg | ClC1=CC(=CS1)CC(=O)N1CC2C(C2C1)(C)C=1C=C(C=CC1)NS(=O)(=O)C | C19H21ClN2O3S2
reactant | lithium aluminium hydride | 0.22 mmol, 1.0M, 0.22 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.22 ml | O | H2O
reactant | sodium hydrogen carbonate | 200 mg | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-{3-[2-(5-Chloro-3-thienyl)ethyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide | 14 mg, 33% | ClC1=CC(=CS1)CCN1CC2C(C2C1)(C)C=1C=C(C=CC1)NS(=O)(=O)C | C19H23ClN2O2S2
